### PR TITLE
[Merged by Bors] - feat: an equality condition for AM-GM inequality

### PR DESCRIPTION
**Pull request by hehepig166**
Add some theorems on the equality condition of the weighted AM-GM inequality for real-valued nonnegative functions, referring to `geom_mean_arith_mean_weighted_eq_iff` in `Mathlib/Analysis/MeanInequalities.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/MeanInequalities.lean [hunk 1]
```diff
@@ -190,6 +190,48 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
   rw [geom_mean_weighted_of_constant, arith_mean_weighted_of_constant] <;> assumption
 
+
+
+/- **AM-GM inequality - equality condition**: This theorem provides the equality condition for the
+weighted version of the AM-GM inequality for real-valued nonnegative functions. Note that the w i
+here need to be positive.-/
+theorem geom_mean_arith_mean_weighted_eq_iff (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i)
+    (hw' : ∑ i ∈ s, w i = 1) (hz : ∀ i ∈ s, 0 ≤ z i) :
+    ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i ↔ ∀ j ∈ s, z j = ∑ i ∈ s, w i * z i := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/MeanInequalities.lean:200]: Can you adapt the proof to show this?
```suggestion
theorem geom_mean_arith_mean_weighted_eq_iff (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 ≤ w i)
    (hw' : ∑ i ∈ s, w i = 1) (hz : ∀ i ∈ s, 0 ≤ z i) :
    ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i ↔ ∀ j ∈ s, 0 < w j → z j = ∑ i ∈ s, w i * z i := by
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 2]
```diff
@@ -190,6 +190,48 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
     ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i := by
   rw [geom_mean_weighted_of_constant, arith_mean_weighted_of_constant] <;> assumption
 
+
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/MeanInequalities.lean:194]:
```suggestion
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 3]
```diff
@@ -190,6 +190,48 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+        simp only [mul_comm, h j hj, h x hx]
+      · rw [← arith_mean_weighted_of_constant s w _ (z j) hw' fun i _ => congrFun rfl]
+        apply sum_congr rfl
+        intro x hx
+        simp only [log_injOn_pos (hz' j hj) (hz' x hx), h j hj, h x hx]
+
+
+
+
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/MeanInequalities.lean:234]:
```suggestion
```

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR!

File: Mathlib/Analysis/MeanInequalities.lean (hunk 1 above)
Comment (hehepig166) [reply Mathlib/Analysis/MeanInequalities.lean:200]: Sure, I’d be happy to do that.

Comment (hehepig166) [reply Mathlib/Analysis/MeanInequalities.lean:200]: I noticed that in a similar lemma `strictConvexOn_exp.map_sum_eq_iff'`, it uses `w j ≠ 0 →` rather than `0 < w j →`. Is it better to use `≠` or `<` here?

```
lemma StrictConvexOn.map_sum_eq_iff' (hf : StrictConvexOn 𝕜 s f) (h₀ : ∀ i ∈ t, 0 ≤ w i)
    (h₁ : ∑ i ∈ t, w i = 1) (hmem : ∀ i ∈ t, p i ∈ s) :
    f (∑ i ∈ t, w i • p i) = ∑ i ∈ t, w i • f (p i) ↔
      ∀ j ∈ t, w j ≠ 0 → p j = ∑ i ∈ t, w i • p i
```

Comment (hehepig166) [reply Mathlib/Analysis/MeanInequalities.lean:200]: I wrote two more version based on the first version, `geom_mean_arith_mean_weighted_eq_iff'` and `geom_mean_arith_mean_weighted_eq_iff''`.
But the linter said something like "missing a doc-string".
I'm not sure how to properly document this -- any guidance? Thanks.

```
theorem geom_mean_arith_mean_weighted_eq_iff' (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 ≤ w i)
    (hw' : ∑ i ∈ s, w i = 1) (hz : ∀ i ∈ s, 0 ≤ z i) :
    ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i ↔ ∀ j ∈ s, w j ≠ 0 → z j = ∑ i ∈ s, w i * z i := by
  have h (i) (_ : i ∈ s) : w i * z i ≠ 0 → w i ≠ 0 := by aesop
  have h' (i) (_ : i ∈ s) : z i ^ w i ≠ 1 → w i ≠ 0 := by aesop
  rw [← sum_filter_of_ne h, ← prod_filter_of_ne h', geom_mean_arith_mean_weighted_eq_iff]
  · simp
  · simp (config := { contextual := true }) [(hw _ _).gt_iff_ne]
  · rwa [sum_filter_ne_zero]
  · simp_all only [ne_eq, mul_eq_zero, not_or, not_false_eq_true, and_imp, implies_true, mem_filter]

theorem geom_mean_arith_mean_weighted_eq_iff'' (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 ≤ w i)
    (hw' : ∑ i ∈ s, w i = 1) (hz : ∀ i ∈ s, 0 ≤ z i) :
    ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i ↔ ∀ j ∈ s, 0 < w j → z j = ∑ i ∈ s, w i * z i := by
  have h (i) (a : i ∈ s) : w i * z i ≠ 0 → 0 < w i := fun _ => lt_of_le_of_ne' (hw i a) (by aesop)
  have h' (i) (a : i ∈ s) : z i ^ w i ≠ 1 → 0 < w i := fun _ => lt_of_le_of_ne' (hw i a) (by aesop)
  rw [← sum_filter_of_ne h, ← prod_filter_of_ne h', geom_mean_arith_mean_weighted_eq_iff]
  · simp
  · simp (config := { contextual := true }) [(hw _ _).gt_iff_ne]
  · have : filter (fun x => 0 < w x) s = filter (fun x => w x ≠ 0) s := by
      apply filter_congr
      exact fun x hx => ⟨fun a => (ne_of_lt a).symm, fun a => lt_of_le_of_ne (hw x hx) a.symm⟩
    rwa [this, sum_filter_ne_zero]
  · simp_all only [ne_eq, mul_eq_zero, not_or, not_false_eq_true, and_imp, implies_true, mem_filter]
```

image

Comment (YaelDillies) [reply Mathlib/Analysis/MeanInequalities.lean:197]: `≠` is better, sorry for the misguidance

**Comment by YaelDillies** [comment]
The usual way to prove the equality case of an inequality is to first prove its strict inequality case. Could you please do that here? Thanks!

**Comment by hehepig166** [comment]
> The usual way to prove the equality case of an inequality is to first prove its strict inequality case. Could you please do that here? Thanks!

Do you mean I should write a new theorem to handle the strict inequality case first, or just modify the current proof to include it as a step?

**Comment by YaelDillies** [comment]
You should write a new theorem 😄

**Comment by hehepig166** [comment]
The strict inequality equivalent condition is done (maybe?).

I ended up splitting the equality case into two versions to make proving the strict inequality more convenient (yes, I used the equality condition to prove the strict inequality, which was quite easy to write).
As for the version where weights can be zero, I tried writing the strict inequality case, but the equivalent condition turned out to be too complex.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 4]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+  rw [← sum_filter_of_ne h, ← prod_filter_of_ne h', geom_mean_arith_mean_weighted_eq_iff_aux]
+  · simp
+  · simp (config := { contextual := true }) [(hw _ _).gt_iff_ne]
+  · rwa [sum_filter_ne_zero]
+  · simp_all only [ne_eq, mul_eq_zero, not_or, not_false_eq_true, and_imp, implies_true, mem_filter]
+
+/- **AM-GM inequality - strict inequality condition**: This theorem provides the strict inequality
+condition for the *positive* weighted version of the AM-GM inequality for real-valued nonnegative
+functions. -/
+theorem geom_mean_lt_arith_mean_weighted_iff (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i)
```
Comment (acmepjz) [inline Mathlib/Analysis/MeanInequalities.lean:244]: Maybe it should named `geom_mean_lt_arith_mean_weighted_iff_of_pos`. But in my opinion I prefer only `geom_mean_eq_arith_mean_weighted_iff_of_pos`, and the `lt` version is leave for caller.

**Review by acmepjz — COMMENTED** [review]
Looks good, though I'm not familiar with elementary inequalities.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 5]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
     ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i := by
   rw [geom_mean_weighted_of_constant, arith_mean_weighted_of_constant] <;> assumption
 
+/- **AM-GM inequality - equality condition**: This theorem provides the equality condition for the
+*positive* weighted version of the AM-GM inequality for real-valued nonnegative functions. -/
+theorem geom_mean_arith_mean_weighted_eq_iff_aux (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i)
```
[the remark this answers is not in the document]
Comment (hehepig166) [reply Mathlib/Analysis/MeanInequalities.lean:195]: Then maybe the 'aux' is not necessary?

File: Mathlib/Analysis/MeanInequalities.lean [hunk 6]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
     ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i := by
   rw [geom_mean_weighted_of_constant, arith_mean_weighted_of_constant] <;> assumption
 
+/- **AM-GM inequality - equality condition**: This theorem provides the equality condition for the
+*positive* weighted version of the AM-GM inequality for real-valued nonnegative functions. -/
+theorem geom_mean_eq_arith_mean_weighted_iff_aux_of_pos (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i)
+    (hw' : ∑ i ∈ s, w i = 1) (hz : ∀ i ∈ s, 0 ≤ z i) :
+    ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i ↔ ∀ j ∈ s, z j = ∑ i ∈ s, w i * z i := by
```
Comment (loefflerd) [inline Mathlib/Analysis/MeanInequalities.lean:197]: In this theorem, `w` and `z` can be inferred from the other arguments – you can't prove that `∀ i ∈ s, 0 < w i` without knowing what `w` is – so the usual library convention would be to make them implicit. That is, replace the round brackets with curly ones, `{w z : ι → ℝ}`. (Same applies to the other theorems here too.)

On another matter: is this first theorem only useful as a stepping-stone to the theorems later on in the file (as the `aux` in the name suggests)? If it is no longer useful once those theorems are proved (i.e. if the later theorems trivially imply it) then you can mark it as `private`, so it doesn't appear in the reference manual and can't be used outside this file.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 7]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+  by_cases A : ∃ i ∈ s, z i = 0 ∧ w i ≠ 0
+  · rcases A with ⟨i, his, hzi, hwi⟩
+    rw [prod_eq_zero his]
+    · constructor
+      · intro h; rw [← h]; intro j hj
```
Comment (loefflerd) [inline Mathlib/Analysis/MeanInequalities.lean:202]: Generally we discourage chaining together multiple tactics on one line.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 8]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+        exact fun i hi => (mul_nonneg_iff_of_pos_left (hw i hi)).mpr (hz i hi)
+      · intro h
+        convert h i his
+        exact hzi.symm
+    · rw [hzi]
+      exact zero_rpow hwi
+  · simp only [not_exists, not_and] at A
+    have hz' := fun i h => lt_of_le_of_ne (hz i h) (fun a => (A i h a.symm) (ne_of_gt (hw i h)))
+    have := strictConvexOn_exp.map_sum_eq_iff hw hw' fun i _ => Set.mem_univ <| log (z i)
+    simp only [exp_sum, (· ∘ ·), smul_eq_mul, mul_comm (w _) (log _)] at this
```
Comment (loefflerd) [inline Mathlib/Analysis/MeanInequalities.lean:214]: What does `simp only [(· ∘ ·)]` do? I've never seen this syntax before.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 9]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+    convert this using 1
+    · apply Eq.congr <;> [apply prod_congr rfl; apply sum_congr rfl]
+      <;> intro i hi <;> simp [exp_mul, exp_log (hz' i hi)]
```
Comment (loefflerd) [inline Mathlib/Analysis/MeanInequalities.lean:217]: More line breaks, and putting the `<;>` at the end of lines rather than the beginning, would be easier to read.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 10]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+        intro x hx
+        simp only [log_injOn_pos (hz' j hj) (hz' x hx), h j hj, h x hx]
+
+/- **AM-GM inequality - equality condition**: This theorem provides the equality condition for the
+weighted version of the AM-GM inequality for real-valued nonnegative functions. -/
+theorem geom_mean_eq_arith_mean_weighted_iff (w z : ι → ℝ) (hw : ∀ i ∈ s, 0 ≤ w i)
+    (hw' : ∑ i ∈ s, w i = 1) (hz : ∀ i ∈ s, 0 ≤ z i) :
+    ∏ i ∈ s, z i ^ w i = ∑ i ∈ s, w i * z i ↔ ∀ j ∈ s, w j ≠ 0 → z j = ∑ i ∈ s, w i * z i := by
+  have h (i) (_ : i ∈ s) : w i * z i ≠ 0 → w i ≠ 0 := by aesop
+  have h' (i) (_ : i ∈ s) : z i ^ w i ≠ 1 → w i ≠ 0 := by aesop
```
Comment (loefflerd) [inline Mathlib/Analysis/MeanInequalities.lean:234]: These `have`s seem to be duplicating existing lemmas in the library, eg the first is just [left_ne_zero_of_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Basic.html#left_ne_zero_of_mul).

File: Mathlib/Analysis/MeanInequalities.lean [hunk 11]
```diff
@@ -190,6 +190,75 @@ theorem geom_mean_eq_arith_mean_weighted_of_constant (w z : ι → ℝ) (x : ℝ
...
+  rw [← sum_filter_of_ne h, ← prod_filter_of_ne h', geom_mean_eq_arith_mean_weighted_iff_aux_of_pos]
+  · simp
+  · simp (config := { contextual := true }) [(hw _ _).gt_iff_ne]
```
Comment (loefflerd) [inline Mathlib/Analysis/MeanInequalities.lean:237]: There was a Zulip thread recently about a new cleaner syntax for this, something like `simp +contextual [foo]`

**Review by loefflerd — COMMENTED** [review]
Here are a few more small tips. This is looking pretty good now, thanks for the nice contribution!

File: Mathlib/Analysis/MeanInequalities.lean (hunk 8 above)
Comment (hehepig166) [reply Mathlib/Analysis/MeanInequalities.lean:214]: While reading the `geom_mean_le_arith_mean_weighted` theorem earlier in the same file, I noticed this. Deleting it doesn't affect local compilation, but I kept it in case it was a historical issue. Perhaps the code is a bit outdated due to Lean version differences?

I'll delete it in my theorem. What about the original `geom_mean_le_arith_mean_weighted` theorem?

File: Mathlib/Analysis/MeanInequalities.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/Analysis/MeanInequalities.lean:197]: Aha! The linter shouldn't complain about the apostrophe as long as there is a doc-string. In your case you clearly meant to make a doc-string (the text preceding the theorem); but doc-strings need to start with `/--` (two dashes), not `/-` (one dash) which is just an ordinary comment. So this needs to be fixed anyway; and it will have the side-effect of stopping the linter complaining. 

I had overlooked this until now, so it's lucky that you made the remark about linters.

File: Mathlib/Analysis/MeanInequalities.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/Analysis/MeanInequalities.lean:214]: > What does `simp only [(· ∘ ·)]` do? I've never seen this syntax before.

I think it's equivalent to `Function.comp` or `Function.comp_def`. `(· ∘ ·)` is for cuteness 😂

File: Mathlib/Analysis/MeanInequalities.lean (hunk 10 above)
Comment (hehepig166) [reply Mathlib/Analysis/MeanInequalities.lean:234]: I tried but didn't find existing lemmas for the second `have`, but it can be written in three lines as follow:
```
have h' (i) (_ : i ∈ s) : z i ^ w i ≠ 1 → w i ≠ 0 := by
    by_contra!
    obtain ⟨h1, h2⟩ := this
    simp only [h2, rpow_zero, ne_self_iff_false] at h1
```
Do I need to rewrite the aesop for the second `have`?

File: Mathlib/Analysis/MeanInequalities.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/Analysis/MeanInequalities.lean]: Changing the arguments to implicit is a routine task but might be a little tedious. If you don't want to take on this re-factoring job, then don't feel you have to.

File: Mathlib/Analysis/MeanInequalities.lean (hunk 10 above)
Comment (loefflerd) [reply Mathlib/Analysis/MeanInequalities.lean]: Either way is fine, you can use this or aesop; it's up to you.

**Comment by loefflerd** [comment]
Looks good now!

maintainer merge
